US05246929
To a mixture of 3-(4-chlorophenyl)-2,3-dihydro1H-naphtho[2,1-b][1,4]thiazine (1.50 g), sodium hydrogen carbonate (1.0 g), methylene chloride (30 ml) and water (15 ml) is added dropwise with stirring a solution of acryloyl chloride (0.90 g) in methylene chloride (10 ml) under ice cooling. The mixture is stirred at room temperature for 3 hours. The organic layer is separated, washed, dried and distilled to remove the solvent. The residue is chromatographed on silica gel (toluene : acetone =50 : 1) to give 3-(4-chlorophenyl)-1-propenoyl-2,3-dihydro-1H-naphtho[2,1-b][1,4]thiazine (1.37 g, 78 %) as powder.

reactant | 3-(4-chlorophenyl)-2,3-dihydro1H-naphtho[2,1-b][1,4]thiazine | 1.50 g | ClC1=CC=C(C=C1)C1CNC2=C(S1)C=CC1=CC=CC=C12 | C18H14ClNS
reactant | sodium hydrogen carbonate | 1.0 g | C(O)([O-])=O.[Na+]
reactant | water | 15 ml | O | H2O
reactant | acryloyl chloride | 0.90 g | C(C=C)(=O)Cl | C3H3ClO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-chlorophenyl)-1-propenoyl-2,3-dihydro-1H-naphtho[2,1-b][1,4]thiazine | 1.37 g, 78 % | ClC1=CC=C(C=C1)C1CN(C2=C(S1)C=CC1=CC=CC=C12)C(C=C)=O | C21H16ClNOS
